US04652679
A solution of 0.87 g of hydrogen chloride in 20 ml of ethyl acetate was added dropwise at 5°, while stirring, to a solution of 3.1 g of p-[(S)-3-[(S)-2-phenyl-1-aziridinyl]butyl]benzamide in 150 ml of ethyl acetate. The precipitate was filtered off under suction and recrystallized from methanol/ether. There was obtained pure p-[(S)-3-[(S)-2-phenyl-1-aziridinyl]butyl]benzamide dihydrochloride of melting point 186°-188°.

reactant | hydrogen chloride | 0.87 g | Cl | ClH
reactant | p-[(S)-3-[(S)-2-phenyl-1-aziridinyl]butyl]benzamide | 3.1 g | C1(=CC=CC=C1)C1[N@@](C1)[C@H](CCC1=CC=C(C(=O)N)C=C1)C | C19H22N2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | p-[(S)-3-[(S)-2-phenyl-1-aziridinyl]butyl]benzamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1[N@@](C1)[C@H](CCC1=CC=C(C(=O)N)C=C1)C | InChI=1S/C19H22N2O.2ClH/c1-14(21-13-18(21)16-5-3-2-4-6-16)7-8-15-9-11-17(12-10-15)19(20)22;;/h2-6,9-12,14,18H,7-8,13H2,1H3,(H2,20,22);2*1H/t14-,18?,21-;;/m0../s1
